US06528510B1
Toluene-4-thiosulfonic acid S-(4,5-diamino-2-isopropyl-phenyl)ester
Toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-isopropyl-phenyl)ester (prepared in Example UU-1; 8.88 g, 16.6 mmol) was dissolved in CH2Cl2 (25 mL), and HCl gas was bubbled through the solution for 15 minutes. The reaction mixture was stirred at room temperature for 90 minutes. The solvents were evaporated, and the residue was dissolved in MeOH (10 mL) and treated with pH 7.5 buffer. The precipitate that formed was filtered and dried. MS(APCI): 337 (M+H).

reactant | Toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-isopropyl-phenyl)ester | 16.6 mmol, 8.88 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1NC(=O)OC(C)(C)C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C26H36N2O6S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-thiosulfonic acid S-(4,5-diamino-2-isopropyl-phenyl)ester | NC1=CC(=C(C=C1N)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C16H20N2O2S2
